US05965743
1.2 g of 4-(3-phenylthiopropyloxy)benzaldehyde were dissolved in 30 ml of ethanol, and the resultant solution was further added with 0.08 g of sodium borohydride and then stirred for 1 hour at room temperature. After completed the reaction, the solvent used was removed by distillation under reduced pressure, and the residue obtained was dissolved in a mixture of ethyl acetate and dilute hydrochloric acid. The ethyl acetate layer resulted was then washed with dilute hydrochloric acid, aqueous solution of sodium hydroxide and water in series. The organic layer resulted was then dried with anhydrous magnesium sulfate, and the solvent used was removed by distillation under reduced pressure, thereby affording 0.65 g of 4-(3-phenylthiopropyloxy)benzyl alcohol.

reactant | 4-(3-phenylthiopropyloxy)benzaldehyde | 1.2 g | C1(=CC=CC=C1)SCCCOC1=CC=C(C=O)C=C1 | C16H16O2S
reactant | sodium borohydride | 0.08 g | [BH4-].[Na+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hydrochloric acid | Cl | ClH
product | 4-(3-phenylthiopropyloxy)benzyl alcohol | 0.65 g | C1(=CC=CC=C1)SCCCOC1=CC=C(CO)C=C1 | C16H18O2S
